US07074800B1
A solution of 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (213 mg, 0.662 mmol), (prepared as described for the starting material in Example 10), and 4-fluoro-5-hydroxyindole (120 mg, 0.794 mmol), (prepared as described for the starting material in Example 242), in DMF (3 ml) containing potassium carbonate (137 mg, 0.994 mmol) was stirred at 95° C. for 3 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4) and evaporated. The residue was triturated in cold ether. The solid was filtered and dried under vacuum to give 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (77 mg, 26%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.662 mmol, 213 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 4-fluoro-5-hydroxyindole | 0.794 mmol, 120 mg | FC1=C2C=CNC2=CC=C1O | C8H6FNO
reactant | potassium carbonate | 0.994 mmol, 137 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 77 mg, 26% | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C24H25FN4O3
